US09334245B2
(2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (100 mg, 242 μmol), HOBt (98 mg, 726 μmol), and EDCI (128 μL, 726 μmol) were dissolved in DCM (2 mL). After stirring for 15 minutes, benzyl glycolate (274 μL, 1.9 mmol) and 4-methylmorpholine (106 μL, 967 μmol) were added. The resulting mixture was stirred at room temperature overnight, and then the reaction was quenched with water. The DCM layer was separated, concentrated, purified ((Interchim reverse phase chromatography column), and dried under vacuum. The purified material was combined with MeCN (1 mL, 20 mmol) and 4 M HCl in dioxane (240 μL, 970 μmmol) and stirred at room temperature for 1 hour. The solvent was then removed to yield (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid benzyloxycarbonylmethyl ester.

reactant | (2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 242 μmol, 100 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | HOBt | 726 μmol, 98 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 726 μmol, 128 μL | CCN=C=NCCCN(C)C | C8H17N3
reactant | benzyl glycolate | 1.9 mmol, 274 μL | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
reactant | 4-methylmorpholine | 967 μmol, 106 μL | CN1CCOCC1 | C5H11NO
reactant | MeCN | 20 mmol, 1 mL | CC#N | C2H3N
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 240 μL | O1CCOCC1 | C4H8O2
product | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid benzyloxycarbonylmethyl ester | C(C1=CC=CC=C1)OC(=O)COC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C28H31NO5
